US07842694B2
3-{[6-(Azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}benzoic acid
The preparations of methyl 3-hydroxy-5-[(1S)-2-hydroxy-1-methylethoxy]benzoate and 2-(azetidin-1-ylcarbonyl)-5-bromopyridine were described earlier.

reactant | methyl 3-hydroxy-5-[(1S)-2-hydroxy-1-methylethoxy]benzoate | OC=1C=C(C(=O)OC)C=C(C1)O[C@H](CO)C | C11H14O5
reactant | 2-(azetidin-1-ylcarbonyl)-5-bromopyridine | N1(CCC1)C(=O)C1=NC=C(C=C1)Br | C9H9BrN2O
product | 3-{[6-(Azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}benzoic acid | N1(CCC1)C(=O)C1=CC=C(C=N1)OC=1C=C(C(=O)O)C=C(C1)O[C@H](CO)C | C19H20N2O6
